Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Iodine-Iodine Containing
 
Attending: ___.
 
Chief Complaint:
Acute onset left sided weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a delightful ___ year old woman with prior 
paramedian pontine infarct (___) and right-sided 
lenticulostriate territory infarct (___), hypertension, 
hyperlipidemia,  colon cancer s/p resection and chemotherapy in
___, and extensive tobacco use who presents with acute onset 
left sided weakness that started at 2200 last night with her 
left leg and evolved this AM to involve the left arm.

As per Ms. ___, she returned from election campaign 
headquarters last night between ___-22:30 and noted that her 
left leg was giving way under her. She needed to use her cane to 
walk. She had no sensory symptoms, no dysarthria, aphasia, arm 
or facial weakness at this time. She spoke to her daughter on 
the phone and then went to bed. This AM when she awoke, she 
noticed
that her left arm was weak as well. However, her left leg 
weakness was much improved and she was able to walk without her 
cane this AM.

Of note, Ms. ___ was admitted to ___ two times with above 
mentioned strokes and is followed by Dr. ___ in stroke 
clinic. His note from ___ notes that Ms. ___ often has 
vertiginous symptoms/ dizziness and has had repeated falls as a 
result. Moreover, her eyesight and hearing have declined. His 
note seems to suggest that she should be on 325mg ASA, but
patient taking only 81mg.

On neuro ROS, the pt denies headache, loss of vision, blurred 
vision, diplopia, dysarthria, dysphagia, tinnitus or hearing 
difficulty. Denies difficulties producing or comprehending 
speech.  Denies numbness, parasthesiae. No bowel incontinence or 
retention. Has bladder incontinence at baseline she says and 
takes a "blue pill" for it. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or 
chills.  No night sweats or recent weight loss or gain. Denies 
cough, shortness of breath.
 
Past Medical History:
- prior paramedian pontine infarct (___) 
- right-sided lenticulostriate territory infarct ___
- Hypertension as per prior medical records(patient denies)
- Dyslipidemia 
- Colon cancer 2/p right colectomy in ___ with prolonged
stuttering course of adjuvant chemotherapy (diagnosed in setting
of GI bleeding)
- Cholecystectomy for chronic cholecystitis and gallstones in
___
- Diverticulosis
- Hemorrhoids

 
Social History:
___
Family History:
Mother had stroke in her ___ or ___.  Her paternal 
grandfather,
father, and brother all had colon cancer.  Sister had ovarian
cancer and has prostate cancer in her family.

 
Physical Exam:
=====================
ADMISSION EXAM:
=====================
Physical Exam:
Vitals: T:98.1   P:60  R: 16  BP:131/61  SaO2: 99% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, bilateral cataracts, no scleral icterus noted, 
MMM,
no lesions noted in oropharynx.
Neck: Supple
Pulmonary: Lungs CTA bilaterally
Cardiac: RRR, nl. I/VI systolic murmur
Abdomen: soft, NT/ND.
Extremities: warm and well perfused.
Skin: no rashes or lesions noted. Feet are dry and fissured.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Language is fluent with intact repetition 
and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM on the right, SCM ___ on 
the
left.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. L arm held pronated. No
adventitious movements, such as tremor, noted. 
  Delt Bic Tri WrE IP Quad Ham TA Gastroc 
L  3    ___  5-  5    5  5     5-    
R  5    ___  5   5    5  5     5    
-Sensory: No deficits to light touch and cold sensation
throughout. No extinction to DSS.

-DTRs:
  Bi      Tri ___ Pat    Ach
L  2brisk  2    2    2brisk  1
R  2       2    2    2       1
Plantar response was mute bilaterally.

-Coordination: No dysmetria on FNF or HKS bilaterally.

=======================
DISCHARGE EXAM:
=======================
Physical Exam:
Vitals: *** 
General: Awake, cooperative, NAD.
HEENT: NC/AT, bilateral cataracts, no scleral icterus noted, 
MMM,
no lesions noted in oropharynx.
Neck: Supple
Pulmonary: Lungs CTA bilaterally
Cardiac: RRR, nl. I/VI systolic murmur
Abdomen: soft, NT/ND.
Extremities: warm and well perfused.
Skin: no rashes or lesions noted. Feet are dry and fissured.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Language is fluent with intact repetition 
and comprehension. Normal prosody. There were no paraphasic 
errors. Pt was able to name both high and low frequency objects. 
Speech was not dysarthric. Able to follow both midline and 
appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM on the right, SCM ___ on 
the
left.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. L arm held pronated. No
adventitious movements, such as tremor, noted. 
  Delt Bic Tri WrE IP Quad Ham TA Gastroc 
L  5    ___  5   5    5  5     5    
R  5    ___  5   5    5  5     5  
  
-Sensory: No deficits to light touch and cold sensation
throughout. No extinction to DSS.

-DTRs:
  Bi      Tri ___ Pat    Ach
L  2       2    2    2       1
R  2       2    2    2       1
Plantar response was mute bilaterally.

-Coordination: No dysmetria on FNF or HKS bilaterally.

 
Pertinent Results:
==================
ADMISSION LABS:
==================
___ 09:30AM   NEUTS-63.7 ___ MONOS-5.6 EOS-1.2 
BASOS-0.3
___ 09:30AM   WBC-8.7 RBC-5.02 HGB-14.5 HCT-42.1 MCV-84 
MCH-28.8 MCHC-34.4 RDW-14.7
___ 09:30AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 09:30AM   TSH-0.98
___ 09:30AM   ALBUMIN-3.9
___ 09:30AM   cTropnT-<0.01
___ 09:30AM   ALT(SGPT)-13 AST(SGOT)-27 ALK PHOS-93 TOT 
BILI-0.3
___:30AM   GLUCOSE-137* UREA N-12 CREAT-1.0 SODIUM-140 
POTASSIUM-5.3* CHLORIDE-106 TOTAL CO2-25 ANION GAP-14
___ 01:06PM   %HbA1c-6.5* eAG-140*
___ 10:28AM   ___ PTT-31.6 ___

==================
DISCHARGE LABS:
==================

___ 07:30AM BLOOD WBC-8.1 RBC-4.78 Hgb-13.9 Hct-41.3 MCV-87 
MCH-29.0 MCHC-33.5 RDW-14.7 Plt ___
___ 07:30AM BLOOD Plt ___
___ 07:30AM BLOOD Glucose-132* UreaN-14 Creat-0.9 Na-144 
K-4.0 Cl-111* HCO3-24 AnGap-13
___ 07:30AM BLOOD Triglyc-PND HDL-PND

==================
IMAGING STUDIES:
==================
___: EKG
Sinus bradycardia. Right bundle-branch block. Left anterior 
fascicular block. Compared to the previous tracing of ___ 
the recording is of poor technical quality. The ST-T wave 
flattening in the inferolateral leads has improved. Otherwise, 
no diagnostic interim change. 

___: CHEST (PA & LAT)
IMPRESSION:   
Unchanged, mild to moderate cardiomegaly without a superimposed 
acute 
intrathoracic process. 

___: MR HEAD W & W/O CONTRAST; MRA BRAIN W/O CONTRAST; MRA 
NECK W/CONTRAST
IMPRESSION: 
1. No evidence of acute intracranial hemorrhage or mass effect. 
2. Multiple punctate foci of slow diffusion with corresponding 
low ADC signal within the right MCA distribution, as described, 
compatible with acute to subacute infarcts. 
3. Brain parenchymal volume loss and presumed sequelae of 
chronic small vessel ischemic disease. 
4. Intracranial vascular irregularity which is typical 
atheromatous disease though no evidence of hemodynamically 
significant stenosis, focal vessel cut off, or aneurysm within 
the intracranial vasculature. 
5. The left vertebral artery is small and its origin is not well 
seen which is felt to likely represent stenosis. 

___: BILAT LOWER EXT VEINS
IMPRESSION:  
No evidence of deep venous thrombosis in the bilateral lower 
extremity veins. 

___: 

  
 

 
Brief Hospital Course:
___ year old woman with prior paramedian pontine infarct (___) 
and right-sided lenticulostriate territory infarct (___), 
hypertension, hyperlipidemia, colon cancer s/p resection and 
chemotherapy in ___, and extensive tobacco use who presents 
with acute onset left sided weakness concerning for stroke. 

#left sided weakness: On the day of admission (___), patient's 
left-sided weakness improved without a history of sensory 
changes or other neurological symptoms.  Her exam on admission 
was notable for left SCM, deltoid, and triceps weakness, as well 
as mild weakness of her left IP and brisker reflexes on the 
left. Patient underwent CT head, which revealed a new 
hypodensity in the right frontal lobe, suggesting for acute and 
subacute infarct, particularly given her extensive history of 
infarcts in the past. Patient also underwent MRI brain and MRA, 
which showed multiple R-sided scattered infarcts that could 
explain her symptoms. Her infarcts seemed embolic. We wondered 
about artery-to-artery due to atherosclerotic ICA disease vs.
cardioembolic source. Of note, patient admitted that she was 
non-compliant with her meds and continues to smoke.
Echo showed LVEF >55% with no masses or thrombi. She was sent 
home with a Holter monitor x 30 days. Because of patient's risk 
factors, she was started on Plavix 75mg. It was discussed with 
patient that she needed to be on high dose statin therapy, and 
atorvastatin 80mg would be recommended, but patient declined 
atorva stating that she had a side effect to another statin 
other than rosuvastatin, and preferred to stay on rosuvastatin. 
I explained that Crestor would not be ideal with current 
guidelines, but based on her preference, she was sent home with 
Crestor 40mg daily. Upon discharge, patient was back to her 
baseline functional level and was symptom-free.  She will 
continue to follow up with Dr. ___ in the clinic. 

===========================================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack

1. Dysphagia screening before any PO intake? (x) Yes [performed 
and documented by admitting resident]  () No

2. DVT Prophylaxis administered by the end of hospital day 2? 
(x) Yes - () No

3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No

4. LDL documented (required for all patients)? (x) Yes (LDL = 
101) - () No

5. Intensive statin therapy administered? (x) Yes - () No [if 
LDL >= 100, reason not given: ____ ]
(intensive statin therapy = simvastatin 80mg, simvastatin 
80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, rosuvastatin 
20mg or 40mg, for LDL >= 100)

6. Smoking cessation counseling given? (x) Yes - () No [if no, 
reason: () non-smoker - () unable to participate]

7. Stroke education given (written form in the discharge 
worksheet)? (x) Yes - () No
(stroke education = personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup)

8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No [if no, reason not assessed: ____ ]

9. Discharged on statin therapy? (x) Yes - () No [if LDL >= 100 
or on a statin prior to hospitalization, reason not discharged 
on statin: ____ ]

10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No

11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No [if no, reason not 
discharge on anticoagulation: ____ ] - (x) N/A
 
Medications on Admission:
1. FoLIC Acid 1 mg PO DAILY 
2. Oxybutynin 5 mg PO DAILY 
3. Rosuvastatin Calcium 10 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Calcium Carbonate 500 mg PO TID 
6. Fish Oil (Omega 3) 1000 mg PO DAILY 
7. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
2. FoLIC Acid 1 mg PO DAILY 
3. Oxybutynin 5 mg PO DAILY 
4. Rosuvastatin Calcium 40 mg PO DAILY 
RX *rosuvastatin [Crestor] 40 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*5
5. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
6. Calcium Carbonate 500 mg PO TID 
7. Fish Oil (Omega 3) 1000 mg PO DAILY 
8. Vitamin D 1000 UNIT PO DAILY 
9. Outpatient Physical Therapy
___ y/o F with R-sided strokes, left-sided weakness

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cerebral embolism with infarction
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized due to symptoms of acute onset left sided 
weakness that lasted 30mins, resulting from an ACUTE ISCHEMIC 
STROKE, a condition in which a blood vessel providing oxygen and 
nutrients to the brain is blocked by a clot. The brain is the 
part of your body that controls and directs all the other parts 
of your body, so damage to the brain from being deprived of its 
blood supply can result in a variety of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
hypertension
hyperlipidemia
extensive tobacco use

We are changing your medications as follows:
Plavix 75mg DAILY
Atovarstatin 80mg DAILY

Please take your other medications as prescribed. It is 
important to comply with the prescribed regimen and to STOP 
smoking.
Please followup with Neurology and your primary care physician 
as listed below.
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- sudden partial or complete loss of vision
- sudden loss of the ability to speak words from your mouth
- sudden loss of the ability to understand others speaking to 
you
- sudden weakness of one side of the body
- sudden drooping of one side of the face
- sudden loss of sensation of one side of the body
- sudden difficulty pronouncing words (slurring of speech)
- sudden blurring or doubling of vision
- sudden onset of vertigo (sensation of your environment 
spinning around you)
- sudden clumsiness of the arm and leg on one side or sudden 
tendency to fall to one side (left or right)
- sudden severe headache accompanied by the inability to stay 
awake

It was a pleasure providing you with care during this 
hospitalization.

The ___ Neurology service 
 
Followup Instructions:
___